US04242507
In benzene (40 ml) are dissolved 1-hydroxy-1,2,3-benzotriazole (10.6 g) and triethylamine (11.1 ml). To the solution is added dropwise a solution of p-chlorobenzenesulfonyl chloride (16.6 g) in benzene (8 ml) with stirring under ice-cooling during about 20 minutes, and the mixture is stirred at 15° C. for 4 hours. To the reaction mixture is added water and the benzene layer is separated. The aqueous layer is extracted twice with ethyl acetate (100 ml). The extract is combined with the above benzene layer, washed with a small amount of an aqueous sodium hydrogen carbonate and water in order and dried over anhydrous sodium sulfate. After drying, the solvent is distilled off under a reduced pressure. The resulting crystals are cracked in petroleum ether and separated by filtration and dried to give faint yellow crystals of 1-(p-chlorobenzensulfonyloxy)-1,2,3-benzotriazole (21.2 g), melting point: 94°-95° C. Ultraviolet spectrum (methanol): λmax 224 mμ, E=365.

reactant | 1-hydroxy-1,2,3-benzotriazole | 10.6 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 11.1 ml | C(C)N(CC)CC | C6H15N
reactant | p-chlorobenzenesulfonyl chloride | 16.6 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | water | O | H2O
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 8 ml | C1=CC=CC=C1 | C6H6
product | 1-(p-chlorobenzensulfonyloxy)-1,2,3-benzotriazole | 21.2 g | ClC1=CC=C(C=C1)S(=O)(=O)ON1N=NC2=C1C=CC=C2 | C12H8ClN3O3S
